US04766115
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and sodium 2-butanethiolate in 2-butanethiol there is obtained 2-butyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-thiocarboximidate which is purified by flash chromatography on silica gel using n-hexane/ethyl acetate (1:1) as the eluent, 1H-NMR(CDCl3): 1.05 (t, CH2CH3), 1.42 (d, CH--CH3), 1.46-1.93 (m, CH2CH3), 2.81-3.37 (m, 1H), 4.41 (s, 4H), 5.1 (broad s, NH), 7.37-7.70 (8H).

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | sodium 2-butanethiolate | CC(CC)[S-].[Na+]
solvent | 2-butanethiol | CC(CC)S | C4H10S
product | 2-butyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-thiocarboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(=N)SC(C)CC | C19H22N2S
